US06114532
a. Cyclopentyl-(4-fluoro-3-nitro-phenyl)-amine
6.7 g (0.08 mol) of cyclopentanone, 12.5 g (0.08 mol) of 4-fluoro-3-nitro-aniline and 30 ml titanium-IV-isopropoxide (0.1 mol) are stirred for 30 minutes at 40° C. and for one hour at ambient temperature. After the addition of 150 ml ethanol the reaction mixture is stirred for 30 minutes and then combined batchwise with 2.4 g (0.066 mol) of sodium borohydride. After 4 hours the reaction mixture is poured onto ice water and combined with ethyl acetate. After filtration the organic phase is separated off, dried and concentrated by evaporation. The residue is chromatographed on silica gel and eluted with petroleum ether/ethyl acetate (9:1). The desired fractions are combined and concentrated by evaporation.

reactant | cyclopentanone | 0.08 mol, 6.7 g | C1(CCCC1)=O | C5H8O
reactant | 4-fluoro-3-nitro-aniline | 0.08 mol, 12.5 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | sodium borohydride | 0.066 mol, 2.4 g | [BH4-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Cyclopentyl-(4-fluoro-3-nitro-phenyl)-amine | C1(CCCC1)NC1=CC(=C(C=C1)F)[N+](=O)[O-] | C11H13FN2O2
